US09029374B2
8-(1-(3-chloro-2-fluorophenylamino)ethyl)-2-morpholino-4-oxo-4H-chromene-6-carboxylic acid (130 mg, 0.29 mmol) was reacted with 2-(methylamino)ethanol (0.028 mL, 0.35 mmol) using a procedure similar to the one described in Example 2.00 to afford 8-(1-(3-chloro-2-fluorophenylamino)ethyl)-N-(2-hydroxyethyl)-N-methyl-2-morpholino-4-oxo-4H-chromene-6-carboxamide (65.0 mg, 44.3%) as a white solid. Mass Spectrum: M+H+ 504. NMR Spectrum: (DMSOd6) 1.57 (d, 3H), 2.76 (s, 1.5H), 2.94 (s, 1.5H), 3.07 (bs, 1H), 3.27 (bs, 1H), 3.45 (bs, 1H), 3.51-3.64 (m, 5H), 3.70-3.78 (m, 4H), 4.69 (bs, 0.5H), 4.78 (ns, 0.5H), 5.08 (bs, 1H), 5.60 (s, 1H), 6.33-6.47 (bs, 2H), 6.65 (ddd, 1H), 6.83 (dd, 1H), 7.60 (bs, 0.5H), 7.61 (bs, 0.5H), 7.79 (bs, 0.5H), 7.81 (bs, 0.5H).

reactant | 8-(1-(3-chloro-2-fluorophenylamino)ethyl)-2-morpholino-4-oxo-4H-chromene-6-carboxylic acid | 0.29 mmol, 130 mg | ClC=1C(=C(C=CC1)NC(C)C=1C=C(C=C2C(C=C(OC12)N1CCOCC1)=O)C(=O)O)F | C22H20ClFN2O5
reactant | 2-(methylamino)ethanol | 0.35 mmol, 0.028 mL | CNCCO | C3H9NO
product | 8-(1-(3-chloro-2-fluorophenylamino)ethyl)-N-(2-hydroxyethyl)-N-methyl-2-morpholino-4-oxo-4H-chromene-6-carboxamide | 65.0 mg, 44.3% | ClC=1C(=C(C=CC1)NC(C)C=1C=C(C=C2C(C=C(OC12)N1CCOCC1)=O)C(=O)N(C)CCO)F | C25H27ClFN3O5
